US08378095B2
To a solution of tert-butyl 4-(4-carbamoyl-2-(2,6-difluorophenyl)oxazol-5-yl)benzylcarbamate (0.110 g, 0.26 mmol) in DCM (10 mL) was added 4M HCl in dioxane (1.5 mL, 6.0 mmol) and the resulting mixture stirred at room temperature overnight. The solvent was then removed in vacuo. The residue was purified by preparative HPLC to afford 5-(4-(aminomethyl)phenyl)-2-(2,6-difluorophenyl)oxazole-4-carboxamide (0.0366 g, 0.11 mmol, 43%) as a white solid as the formate salt. 1H NMR (DMSO) 3.95 (2H, s), 7.40 (2H, t), 7.55 (2H, d), 7.74 (3H, m), 8.21 (2H, d), 8.33 (1H, s). LCMS (2) Rt: 2.30 min; m/z (ES+) 330.

reactant | tert-butyl 4-(4-carbamoyl-2-(2,6-difluorophenyl)oxazol-5-yl)benzylcarbamate | 0.26 mmol, 0.110 g | C(N)(=O)C=1N=C(OC1C1=CC=C(CNC(OC(C)(C)C)=O)C=C1)C1=C(C=CC=C1F)F | C22H21F2N3O4
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 6.0 mmol, 1.5 mL | O1CCOCC1 | C4H8O2
reactant | formate | C(=O)[O-]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-(4-(aminomethyl)phenyl)-2-(2,6-difluorophenyl)oxazole-4-carboxamide | 0.11 mmol, 0.0366 g, 43% | NCC1=CC=C(C=C1)C1=C(N=C(O1)C1=C(C=CC=C1F)F)C(=O)N | C17H13F2N3O2
